US05817671
5-(N-[3-chlorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.085 gm (0.369 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.099 mL (0.776 mMol) 3-chlorobenzoyl chloride, 0.109 gm (80.1%) of the title compound was recovered as a crystalline solid by the procedure described in Example 16.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.369 mMol, 0.085 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-chlorobenzoyl chloride | 0.776 mMol, 0.099 mL | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | 5-(N-[3-chlorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.109 gm, 80.1% | ClC=1C=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC1 | C20H21ClN4O
